US09388189B2
(S)-2-(1-((2-Butyl-6-methylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((6-Bromo-2-butylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (obtained as by-product in Preparation 82, 53 mg, 0.10 mmol) was treated with potassium carbonate (273 mg, 1.97 mmol), tetrakis(triphenylphosphine)palladium(0) (11 mg, 0.01 mmol) and trimethylboroxine (124 μl, 0.89 mmol) according to the method described in Example 56. The residue was purified using SP1® Purification System (0% to 35%, hexane-ethyl acetate) to obtain 17 mg (37% yield) of the title compound as a white solid. Purity 86%.

reactant | (S)-2-(1-((6-Bromo-2-butylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.10 mmol, 53 mg | BrC1=CC2=C(N=C(N=C2N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)CCCC)S1 | C25H25BrN6OS
reactant | potassium carbonate | 1.97 mmol, 273 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 0.89 mmol, 124 μl | CB1OB(OB(O1)C)C | C3H9B3O3
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.01 mmol, 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-2-(1-((2-Butyl-6-methylthieno[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 17 mg, 37% yield | C(CCC)C=1N=C(C2=C(N1)SC(=C2)C)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C26H28N6OS
